US03943154
EXAMPLE 1: 3-(4-METHANESULFONAMIDOBENZENESULFONYL)ACRYLONITRILE
23 grams (0.2 mol) of methanesulfonyl chloride (CH3SO2Cl) are dissolved in 600 milliliters of chloroform, and 42 grams (0.2 mol) of 3-(4-aminobenzenesufonyl)acrylonitrile, prepared as described in copending application Ser. No. 228,410 filed Feb. 22, 1972, are added with stirring and cooling in an ice bath followed portionwise by a solution of 16 g (0.2 mol) of pyridine in 200 ml of pyridine. The reaction mixture is allowed to reach room temperature and is thereafter left at about 20° C for about 48 hours. The solution is filtered and then washed with water, a 5% solution of HCl in water, a 5% sodium bicarbonate solution in water, and water, in sequence.

reactant | methanesulfonyl chloride | 0.2 mol, 23 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(4-aminobenzenesufonyl)acrylonitrile | 0.2 mol, 42 grams | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
solvent | chloroform | 600 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.2 mol, 16 g | N1=CC=CC=C1 | C5H5N
product | 3-(4-METHANESULFONAMIDOBENZENESULFONYL)ACRYLONITRILE | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C10H10N2O4S2
